US07217723B2
5-Bromothiophene-2-sulfonic acid methyl-amide
To a solution of 5-bromothiophene-2-sulfonyl chloride (602 mg) in tetrahydrofuran (5 mL) was added dropwise a solution of 2.0M methylamine-tetrahydrofuran (3.5 mL) on an ice bath. After stirring for 15 minutes on an ice bath, the solution was diluted with water and extracted with ethyl acetate. After washing with an aqueous solution of saturated sodium bicarbonate and saturated sodium chloride water, the solution was dried with anhydrous sodium sulfate. After filtration through silica gel, the solvent was removed by evaporation to provide the title compound (608 mg) as a colorless oily matter.

reactant | 5-bromothiophene-2-sulfonyl chloride | 602 mg | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | methylamine tetrahydrofuran | 2.0M, 3.5 mL | CN.O1CCCC1
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-Bromothiophene-2-sulfonic acid methyl-amide | 608 mg | CNS(=O)(=O)C=1SC(=CC1)Br | C5H6BrNO2S2
